US04409018
2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one
In 75 ml of pyridine was dissolved 28.2 g of 2-(4-chloro-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindole-3-one, and 30 ml of acetic acid anhydride was added to the solution, which was allowed to stand at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane, washed with water and dried over anhydrous sodium sulfate. After distilling off the dichloromethane, the resulting crystals were washed with a small amount of cold ethanol and dried, thereby affording 25.2 g (yield of 95%) of the subject compound. Recrystallization from ethanol yielded red-purple crystals, m.p. 101°-102° C.

reactant | 2-(4-chloro-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindole-3-one | 28.2 g | ClC1=CC(=C(C=C1)N1C(C2CCCCC2(C1=O)O)=S)F | C14H13ClFNO2S
reactant | acetic acid anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one | 25.2 g, yield of 95% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1=S)=O)F | C14H11ClFNOS
